US06348461B1
Ethyl 3,4-dihydro-7-imidazolyl-3-oxo-6-trifluoromethylquinoxaline-2-carboxylate
To a solution of 5-imidazolyl-4-trifluoromethyl-1,2-phenylenediamine (303 mg, 1.25 mmol) in ethanol (50 ml) was added diethyl ketomalonate (210 μl, 1.38 mmol) at room temperature, and the mixture was refluxed for 6 hours. The reaction mixture. was concentrated to around half volume under reduced pressure, then the precipitate was collected by filtration and washed with cold ethanol. The filtrate was distilled off under reduced pressure, small quantity of mixed solution of ethyl acetate-diisopropyl ether was added to the residue obtained and the precipitate was collected by filtration to obtain 148 mg of the title compound as pale yellowish brown powder. Yield 34%.

reactant | 5-imidazolyl-4-trifluoromethyl-1,2-phenylenediamine | 1.25 mmol, 303 mg | N1C(=NC=C1)C=1C(=CC(=C(C1)N)N)C(F)(F)F | C10H9F3N4
reactant | diethyl ketomalonate | 1.38 mmol, 210 μl | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 3,4-dihydro-7-imidazolyl-3-oxo-6-trifluoromethylquinoxaline-2-carboxylate | 148 mg, Yield 34% | N1C(=NC=C1)C1=C(C=C2NC(C(=NC2=C1)C(=O)OCC)=O)C(F)(F)F | C15H11F3N4O3
